Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Heparin Agents
 
Attending: ___.
 
Chief Complaint:
insomnia and mania
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ F h/o BOOP treated with steroids complicated by brain abscess 
s/p drainage in ___, last month had cranioplasty to re-shape 
head admitted with sleeplessness and AMS. Per family patient had 
long history of "nervous breakdowns". They began in the 1960s 
and had been previously instiutionalized.  Had previously been 
on lithium, but mroe recently was maintained on thioridazine x 
___ years.  This medication was discontinued on previous 
admission for her brain abscess.  Since then she has been 
paranoid - her daughter has tried to give her medications but 
the patient thought she was poisoning her so the daughter has 
had to hide the medications in applesauce.  
Over the last ten days the patient has developed sleeplessness, 
agitation, and a "hyped up mood". Per her daughter who lives 
with her these are the same symptoms she had in the past with 
her other breakdowns. The patient reports also having visual 
hallucinations. The daughter initially called the PCP after the 
patient had not slept for 3 nights and the PCP put her back on 
her thioridazine and has been titrating the medication up over 
the last week. The daughter thought the patient was improving, 
however, tonight when the patient was supposed to be sleeping 
the daughter woke to find her awake and thus brought her to the 
ED.  

 
Past Medical History:
1. COPD  
2. BOOP- diagnosed 3 weeks ago by CT guided biopsy  
3. Pneumonia (___) 3 days admission- ___  
4. Glaucoma  
5. Anxiety  
6. Bipolar D/O -- well controlled x ___ years  
7. Cataract  
8. fluid retention  
9. Neuropathy  
10. hyperlipidemia  
11. Brain abscesses s/p drainage and craniectomy  
s/p craniectomy for drainage of cerebral abscess - cultures grew 
 
s. viridans and she completed 6 weeks of ceftriaxone for this  
s/p steriotactic drainage of a second cerebral abscess  
s/p cranioplasty  
12. DVT not on coumadin after surgery  

 
Social History:
___
Family History:
Father: lung ca, CAD, ETOH abuse. No h/o bipolar disease or 
depression. No suicides 
 
Physical Exam:
PHYSICAL EXAM AT ADMISSION:  
VITALS: T 96.7 HR 90 BP 134/60 RR 18 O2 96RA  
GEN: Elderly F in NAD  
HEENT: Shaved head. Sclera anicteric MMM  
NECK: No JVD  
LUNGS: CTAB  
HEART: RRR no M/R/G  
ABD: Soft. Nt/Nd  
EXTREM: No edema  
NEURO: A+OX2 Knows month but was confused on year. + visual 
hallucinations. +insomnia. Loose association of ideas. No 
grandiosity. Denies SI/HI.  

Unchanged at discharge. 

 
Pertinent Results:
LABORATORY RESULTS:
___ 02:33PM BLOOD WBC-7.3 RBC-4.29 Hgb-10.5* Hct-34.6* 
MCV-81* MCH-24.6* MCHC-30.4* RDW-16.8* Plt ___
___ 05:40AM BLOOD WBC-9.2 RBC-4.36 Hgb-10.8* Hct-35.5* 
MCV-81* MCH-24.7* MCHC-30.4* RDW-15.9* Plt ___
___ 02:33PM BLOOD Neuts-68.3 ___ Monos-6.2 Eos-2.3 
Baso-0.8
___ 02:33PM BLOOD ___ PTT-24.5 ___
___ 02:33PM BLOOD Glucose-137* UreaN-11 Creat-0.7 Na-140 
K-4.4 Cl-103 HCO3-30 AnGap-11
___ 05:40AM BLOOD Glucose-83 UreaN-11 Creat-0.6 Na-142 
K-4.4 Cl-106 HCO3-30 AnGap-10
___ 05:40AM BLOOD Calcium-8.9 Mg-2.1
___ 05:40AM BLOOD VitB12-___ Folate-17.1
___ 05:40AM BLOOD TSH-0.91
___ 02:33PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM
___ 03:30PM URINE ___ Bacteri-RARE Yeast-NONE 
___ 03:30PM URINE Hours-RANDOM
___ 03:30PM URINE Gr Hold-HOLD
.
STUDIES:
CT HEAD ___: There is no evidence of intracranial 
hemorrhage, or mass effect. A hypodense area within the right 
frontal vertex is unchanged since prior exam. Area of 
hypodensity within the left frontal lobe adjacent to it and area 
of craniotomy is unchanged in size since prior exam. Mildly 
increased soft tissue laterally is minimally increased and may 
represent increased granulation tissue. The ventricles and 
extra-axial spaces are unremarkable. Right frontal burr hole is 
again noted, unchanged. Previously seen material with multiple 
air bubbles filling left cranioplasty appears more homogeneous 
on the current study. There 
are no air bubbles within this region. There is no depressed 
skull fracture. The paranasal sinuses and visualized mastoid air 
cells are grossly clear. 
IMPRESSION: 
No acute intracranial abnormality on this non-contrast CT. 
Minimally 
increased soft tissue (likely granulation tissue) adjacent to 
the left frontal area of encephalomalacia. 
CXR ___:
FINDINGS: The study is somewhat limited secondary to AP portable 
technique. Within that limitation, no consolidation or edema is 
evident. There is mild tortuosity of the thoracic aorta. The 
cardiac silhouette is grossly within normal limits for size. No 
effusion or pneumothorax is noted. The visualized osseous 
structures are unremarkable. 
 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ s/p crani for abscess - cultures grew s. 
viridans and completed 6 wks of ceftriaxone, s/p cranioplasty. 
Has not slept for 2 weeks and was started on Thioridazine by 
PCP. CT scan stable.  

# Mania: Patient's symptoms are consistent with mania. Organic 
causes for her current episodes was rule out with negative CXR, 
negative UA, and blood cultures were negative x 48 hours on her 
transfer to ___.  She had a repeat Head CT with 
neurosurgical evaluation for any changes and possibility of 
intervention.  After review of head Ct, the neurosurgical team 
felt no need for surgical intervention as there was no 
significant change in her Head CT.  Additionally, she remained 
afebrile, no leukocytosis on lab work.  Likely this episode of 
mania is related to her medication changes.  Psychiatry service 
was consulted for further managment of her thioridazine.  
Initially, there was discussion about changing her Keppra to 
another agent, but this was deferred to her future inpatient 
psychiatric hospitalization where she could be closely 
monitored.  Ambien was initiated per psychiatry recommendations 
to help her insomnia.  

#. H/O Brain abscess: As mentioned above, her CT was unchanged 
on admission.  Was evaluated by neurosurgery in ED who did not 
see any surgical indications.  Her scan was unchanged and her 
would site was healing well.  Keppra was continued.  Psychiatry 
recommended considering changing to depakote for possible mood 
stabalizing benifits but this was deffered and can be considered 
by psychiatry as an inpatient. 

# h/o lung asbcess: Had been seen by ID in the past in relation 
to this.  Was supposed to be scheduled for Chest CT in ___, but 
was not obtained.  In speaking with her PMD, this was 
rescheduled for ___ at ___.  

# h/o DVT: Had previously been on coumadin for ___ DVT, but had 
been discontinued after recent hospitalization.  Her PMD had 
repeated ___ Doppler study which showed NO DVT.  Thus, 
anticoagulation was discontinued.

#. COPD: Her outpatient medication is for Bonava, but 
unavailable at ___.  Asymptomatic and maintained normal oxygen 
saturation on room air.  She had albuterol as needed written for 
which she did not need. 

#. Hyperlipidemia: will continue simvastatin.  
  
#. Cataract: stable and continued outpatient regimen.

 
Medications on Admission:
Thioridazine 20mg TID and 40mg at bedtime  
*Thioridazine 10mg po - take 2 tablets TID and 4 tablets qhs  
[pt was titrating up on medication and her daughter, who  
administers medications has been giving:  
___ in am/10mg in pm  
___ - 20mg in am/20mg in pm (ok per PCP)  
___ - 20mg in am, 20mg at noon, 40mg in pm (okay per PCP)  

___ in am, 20mg at noon, 20mg at 6pm, 40mg at bedtime  
(per PCP, could increase another 20 for sleep)  
___ in am, 20mg at noon, 20mg at 6pm, 40mg at bedtime  
(did not consult PCP)  
___ - received 40mg in am, 20mg at noon]*  
Omeprazole 20mg daily  
Keppra 500mg BID- anti-seizure prophylaxis?  
MVI  
betopic eye drops twice daily  
Brovana INH twice daily  
Simvastatin 20mg at bedtime  
Claritin D (Daughter has been holding since she started on 
thioridazine)  

 
Discharge Medications:
1. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

2. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. Levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
4. Thioridazine 10 mg Tablet Sig: Four (4) Tablet PO HS (at 
bedtime).  
5. Betaxolol 0.25 % Drops, Suspension Sig: One (1) Drop 
Ophthalmic BID (2 times a day).  
6. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Thioridazine 10 mg Tablet Sig: Two (2) Tablet PO TID (3 times 
a day).  
8. Brovana 15 mcg/2 mL Solution for Nebulization Sig: One (1) 
INH Inhalation twice a day as needed for shortness of breath or 
wheezing.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
Manic episode

Secondary:
Brain Abscess
COPD
h/o DVT
h/o lung abscess
hyperlipidemia
cataracts
 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted to the hospital because of insomnia and a 
manic episode.  You were evaluated for possible causes of your 
mania.  Our work up was negative.  We did not find an infection 
or any metabolic problems.  You had a head CT to evaluate the 
recent brain abscess.  It was reviewed with the neurosurgeons 
who did not see any changes from before.  Your mania is likely 
related to recent changes in your thioridazine.  

Medication changes:
Thriodidazine and Keppra were continued.  

Please return to the hospital or call your doctor if you have 
temperature greater than 101, shortness of breath, worsening 
difficulty with swallowing, chest pain, abdominal pain, 
diarrhea, or any other symptoms that you are concerned about.

 
Followup Instructions:
___